US07595398B2
5-(2-Bromo-acetyl)-furan-2-carboxylic acid methyl ester (0.39 g, 1.61 mmol) was treated with NaOAc (0.185 g, 2.25 mmol) and thiourea (0.12 g, 1.6 mmol) in EtOH to give 5-(2-Amino-thiazol-4-yl)-furan-2-carboxylic acid methyl ester; MS: 225.1 (M+H+).

reactant | 5-(2-Bromo-acetyl)-furan-2-carboxylic acid methyl ester | 1.61 mmol, 0.39 g | COC(=O)C=1OC(=CC1)C(CBr)=O | C8H7BrO4
reactant | NaOAc | 2.25 mmol, 0.185 g | CC(=O)[O-].[Na+]
reactant | thiourea | 1.6 mmol, 0.12 g | NC(=S)N | CH4N2S
solvent | EtOH | CCO | C2H6O
product | 5-(2-Amino-thiazol-4-yl)-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)C=1N=C(SC1)N | C9H8N2O3S
